US09284308B2
2-(3-Cyanobenzyl)malonic acid
A flask containing a mixture of 3-((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)methyl)benzonitrile (4.53 g, 17.5 mmol, Intermediate 70: step a) TFA (30 mL) and water (14 mL) was equipped with a reflux condenser and Drierite® at the outlet, then heated in a 65° C. oil bath for 4 hours. The mixture was concentrated and the title compound was precipitated from water and filtered.

reactant | 3-((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)methyl)benzonitrile | CC1(OC(C(C(O1)=O)CC=1C=C(C#N)C=CC1)=O)C | C14H13NO4
reactant | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Drierite | [O-]S(=O)(=O)[O-].[Ca+2]
solvent | water | 14 mL | O | H2O
product | 2-(3-Cyanobenzyl)malonic acid | C(#N)C=1C=C(CC(C(=O)O)C(=O)O)C=CC1 | C11H9NO4
